US07153865B2
6-Fluoro-2-chloro-4-(3,4-dichlorophenyl)aminoquinoline
Prepared using general procedure 3; 6-Fluoro-2-hydroxy-4-(3,4-dichlorophenyl)aminoquinoline (2.136 g, 6.6 mmol) and 30 mL of POCl3 were heated to 120° C. for 4 h. Isolation afforded 0.654 g of material (1.914 mmol, 29%). 1H NMR (300 MHz, DMSO): 9.55(s, 1H), 8.27(dd, 1H, J=10.50, 2.02 Hz), 7.92(dd, 1H, J=8.88, 5.65 Hz), 7.70(m, 3H), 7.45(dd, 1H, J=8.48, 2.02 Hz), 6.90(s, 1H).

reactant | 6-Fluoro-2-hydroxy-4-(3,4-dichlorophenyl)aminoquinoline | 6.6 mmol, 2.136 g | FC=1C=C2C(=CC(=NC2=CC1)O)NC1=CC(=C(C=C1)Cl)Cl | C15H9Cl2FN2O
reactant | POCl3 | 30 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 6-Fluoro-2-chloro-4-(3,4-dichlorophenyl)aminoquinoline | 1.914 mmol, 0.654 g, 29% | FC=1C=C2C(=CC(=NC2=CC1)Cl)NC1=CC(=C(C=C1)Cl)Cl | C15H8Cl3FN2
